************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: sram_array_1
* View Name:     schematic
* Netlisted on:  Jun 13 13:04:54 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    sram_2_bit_1
* View Name:    schematic
************************************************************************

.SUBCKT sram_2_bit_1 BL BLN VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL:B BLN:B VDD:B VSS:B
MM9 net36 WL1 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM8 net35 WL1 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM0 net34 WL0 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM3 net33 WL0 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM7 net36 net35 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM6 net35 net36 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM2 net34 net33 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM1 net33 net34 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM11 net36 net35 VDD VDD pmos_sram w=27n l=20n nfin=1
MM10 net35 net36 VDD VDD pmos_sram w=27n l=20n nfin=1
MM5 net34 net33 VDD VDD pmos_sram w=27n l=20n nfin=1
MM4 net33 net34 VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

************************************************************************
* Library Name: testLib
* Cell Name:    sram_16b_2
* View Name:    schematic
************************************************************************

.SUBCKT sram_16b_2 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> 
+ BL<10> BL<11> BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> 
+ BLN<5> BLN<6> BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> 
+ BLN<15> VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B 
*.PININFO BL<7>:B BL<8>:B BL<9>:B BL<10>:B BL<11>:B BL<12>:B BL<13>:B BL<14>:B 
*.PININFO BL<15>:B BLN<0>:B BLN<1>:B BLN<2>:B BLN<3>:B BLN<4>:B BLN<5>:B 
*.PININFO BLN<6>:B BLN<7>:B BLN<8>:B BLN<9>:B BLN<10>:B BLN<11>:B BLN<12>:B 
*.PININFO BLN<13>:B BLN<14>:B BLN<15>:B VDD:B VSS:B
XI15 BL<0> BLN<0> VDD VSS WL0 WL1 / sram_2_bit_1
XI14 BL<1> BLN<1> VDD VSS WL0 WL1 / sram_2_bit_1
XI13 BL<2> BLN<2> VDD VSS WL0 WL1 / sram_2_bit_1
XI12 BL<3> BLN<3> VDD VSS WL0 WL1 / sram_2_bit_1
XI11 BL<4> BLN<4> VDD VSS WL0 WL1 / sram_2_bit_1
XI10 BL<5> BLN<5> VDD VSS WL0 WL1 / sram_2_bit_1
XI9 BL<6> BLN<6> VDD VSS WL0 WL1 / sram_2_bit_1
XI8 BL<7> BLN<7> VDD VSS WL0 WL1 / sram_2_bit_1
XI7 BL<8> BLN<8> VDD VSS WL0 WL1 / sram_2_bit_1
XI6 BL<9> BLN<9> VDD VSS WL0 WL1 / sram_2_bit_1
XI5 BL<10> BLN<10> VDD VSS WL0 WL1 / sram_2_bit_1
XI4 BL<11> BLN<11> VDD VSS WL0 WL1 / sram_2_bit_1
XI3 BL<12> BLN<12> VDD VSS WL0 WL1 / sram_2_bit_1
XI2 BL<13> BLN<13> VDD VSS WL0 WL1 / sram_2_bit_1
XI1 BL<14> BLN<14> VDD VSS WL0 WL1 / sram_2_bit_1
XI0 BL<15> BLN<15> VDD VSS WL0 WL1 / sram_2_bit_1
.ENDS

************************************************************************
* Library Name: testLib
* Cell Name:    sram_array_1
* View Name:    schematic
************************************************************************

.SUBCKT sram_array_1 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> 
+ BL<9> BL<10> BL<11> BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> 
+ BLN<4> BLN<5> BLN<6> BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> 
+ BLN<14> BLN<15> VDD VSS WL<0> WL<1> WL<2> WL<3> WL<4> WL<5> WL<6> WL<7> 
+ WL<8> WL<9> WL<10> WL<11> WL<12> WL<13> WL<14> WL<15> WL<16> WL<17> WL<18> 
+ WL<19> WL<20> WL<21> WL<22> WL<23> WL<24> WL<25> WL<26> WL<27> WL<28> WL<29> 
+ WL<30> WL<31> WL<32> WL<33> WL<34> WL<35> WL<36> WL<37> WL<38> WL<39> WL<40> 
+ WL<41> WL<42> WL<43> WL<44> WL<45> WL<46> WL<47> WL<48> WL<49> WL<50> WL<51> 
+ WL<52> WL<53> WL<54> WL<55> WL<56> WL<57> WL<58> WL<59> WL<60> WL<61> WL<62> 
+ WL<63> WL<64> WL<65> WL<66> WL<67> WL<68> WL<69> WL<70> WL<71> WL<72> WL<73> 
+ WL<74> WL<75> WL<76> WL<77> WL<78> WL<79> WL<80> WL<81> WL<82> WL<83> WL<84> 
+ WL<85> WL<86> WL<87> WL<88> WL<89> WL<90> WL<91> WL<92> WL<93> WL<94> WL<95> 
+ WL<96> WL<97> WL<98> WL<99> WL<100> WL<101> WL<102> WL<103> WL<104> WL<105> 
+ WL<106> WL<107> WL<108> WL<109> WL<110> WL<111> WL<112> WL<113> WL<114> 
+ WL<115> WL<116> WL<117> WL<118> WL<119> WL<120> WL<121> WL<122> WL<123> 
+ WL<124> WL<125> WL<126> WL<127>
*.PININFO BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B BL<7>:B 
*.PININFO BL<8>:B BL<9>:B BL<10>:B BL<11>:B BL<12>:B BL<13>:B BL<14>:B 
*.PININFO BL<15>:B BLN<0>:B BLN<1>:B BLN<2>:B BLN<3>:B BLN<4>:B BLN<5>:B 
*.PININFO BLN<6>:B BLN<7>:B BLN<8>:B BLN<9>:B BLN<10>:B BLN<11>:B BLN<12>:B 
*.PININFO BLN<13>:B BLN<14>:B BLN<15>:B VDD:B VSS:B WL<0>:B WL<1>:B WL<2>:B 
*.PININFO WL<3>:B WL<4>:B WL<5>:B WL<6>:B WL<7>:B WL<8>:B WL<9>:B WL<10>:B 
*.PININFO WL<11>:B WL<12>:B WL<13>:B WL<14>:B WL<15>:B WL<16>:B WL<17>:B 
*.PININFO WL<18>:B WL<19>:B WL<20>:B WL<21>:B WL<22>:B WL<23>:B WL<24>:B 
*.PININFO WL<25>:B WL<26>:B WL<27>:B WL<28>:B WL<29>:B WL<30>:B WL<31>:B 
*.PININFO WL<32>:B WL<33>:B WL<34>:B WL<35>:B WL<36>:B WL<37>:B WL<38>:B 
*.PININFO WL<39>:B WL<40>:B WL<41>:B WL<42>:B WL<43>:B WL<44>:B WL<45>:B 
*.PININFO WL<46>:B WL<47>:B WL<48>:B WL<49>:B WL<50>:B WL<51>:B WL<52>:B 
*.PININFO WL<53>:B WL<54>:B WL<55>:B WL<56>:B WL<57>:B WL<58>:B WL<59>:B 
*.PININFO WL<60>:B WL<61>:B WL<62>:B WL<63>:B WL<64>:B WL<65>:B WL<66>:B 
*.PININFO WL<67>:B WL<68>:B WL<69>:B WL<70>:B WL<71>:B WL<72>:B WL<73>:B 
*.PININFO WL<74>:B WL<75>:B WL<76>:B WL<77>:B WL<78>:B WL<79>:B WL<80>:B 
*.PININFO WL<81>:B WL<82>:B WL<83>:B WL<84>:B WL<85>:B WL<86>:B WL<87>:B 
*.PININFO WL<88>:B WL<89>:B WL<90>:B WL<91>:B WL<92>:B WL<93>:B WL<94>:B 
*.PININFO WL<95>:B WL<96>:B WL<97>:B WL<98>:B WL<99>:B WL<100>:B WL<101>:B 
*.PININFO WL<102>:B WL<103>:B WL<104>:B WL<105>:B WL<106>:B WL<107>:B 
*.PININFO WL<108>:B WL<109>:B WL<110>:B WL<111>:B WL<112>:B WL<113>:B 
*.PININFO WL<114>:B WL<115>:B WL<116>:B WL<117>:B WL<118>:B WL<119>:B 
*.PININFO WL<120>:B WL<121>:B WL<122>:B WL<123>:B WL<124>:B WL<125>:B 
*.PININFO WL<126>:B WL<127>:B
XI65 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<126> WL<127> / sram_16b_2
XI64 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<124> WL<125> / sram_16b_2
XI63 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<122> WL<123> / sram_16b_2
XI62 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<120> WL<121> / sram_16b_2
XI61 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<118> WL<119> / sram_16b_2
XI60 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<116> WL<117> / sram_16b_2
XI59 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<114> WL<115> / sram_16b_2
XI58 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<112> WL<113> / sram_16b_2
XI57 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<110> WL<111> / sram_16b_2
XI56 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<108> WL<109> / sram_16b_2
XI55 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<106> WL<107> / sram_16b_2
XI54 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<104> WL<105> / sram_16b_2
XI53 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<102> WL<103> / sram_16b_2
XI52 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<100> WL<101> / sram_16b_2
XI51 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<98> WL<99> / sram_16b_2
XI50 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<96> WL<97> / sram_16b_2
XI49 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<94> WL<95> / sram_16b_2
XI48 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<92> WL<93> / sram_16b_2
XI47 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<90> WL<91> / sram_16b_2
XI46 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<88> WL<89> / sram_16b_2
XI45 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<86> WL<87> / sram_16b_2
XI44 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<84> WL<85> / sram_16b_2
XI43 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<82> WL<83> / sram_16b_2
XI42 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<80> WL<81> / sram_16b_2
XI41 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<78> WL<79> / sram_16b_2
XI40 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<76> WL<77> / sram_16b_2
XI39 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<74> WL<75> / sram_16b_2
XI38 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<72> WL<73> / sram_16b_2
XI37 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<70> WL<71> / sram_16b_2
XI36 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<68> WL<69> / sram_16b_2
XI35 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<66> WL<67> / sram_16b_2
XI34 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<64> WL<65> / sram_16b_2
XI33 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<62> WL<63> / sram_16b_2
XI32 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<60> WL<61> / sram_16b_2
XI31 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<58> WL<59> / sram_16b_2
XI30 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<56> WL<57> / sram_16b_2
XI29 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<54> WL<55> / sram_16b_2
XI28 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<52> WL<53> / sram_16b_2
XI27 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<50> WL<51> / sram_16b_2
XI26 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<48> WL<49> / sram_16b_2
XI25 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<46> WL<47> / sram_16b_2
XI24 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<44> WL<45> / sram_16b_2
XI23 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<42> WL<43> / sram_16b_2
XI22 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<40> WL<41> / sram_16b_2
XI21 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<38> WL<39> / sram_16b_2
XI20 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<36> WL<37> / sram_16b_2
XI19 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<34> WL<35> / sram_16b_2
XI18 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<32> WL<33> / sram_16b_2
XI17 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<30> WL<31> / sram_16b_2
XI16 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<28> WL<29> / sram_16b_2
XI15 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<26> WL<27> / sram_16b_2
XI14 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<24> WL<25> / sram_16b_2
XI13 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<22> WL<23> / sram_16b_2
XI12 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<20> WL<21> / sram_16b_2
XI11 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<18> WL<19> / sram_16b_2
XI10 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<16> WL<17> / sram_16b_2
XI9 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<14> WL<15> / sram_16b_2
XI8 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<12> WL<13> / sram_16b_2
XI7 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<10> WL<11> / sram_16b_2
XI6 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<8> WL<9> / sram_16b_2
XI5 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<6> WL<7> / sram_16b_2
XI4 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<4> WL<5> / sram_16b_2
XI1 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<2> WL<3> / sram_16b_2
XI0 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BL<8> BL<9> BL<10> BL<11> 
+ BL<12> BL<13> BL<14> BL<15> BLN<0> BLN<1> BLN<2> BLN<3> BLN<4> BLN<5> BLN<6> 
+ BLN<7> BLN<8> BLN<9> BLN<10> BLN<11> BLN<12> BLN<13> BLN<14> BLN<15> VDD VSS 
+ WL<0> WL<1> / sram_16b_2
.ENDS

